US09034900B2
Step 1: tert-butyl N-(5-bromo-1-methyl-2-oxopyridin-3-yl)carbamate
To a solution of 3-amino-5-bromo-1-methylpyridin-2-one (404.0 mg, 2.0 mmol) in DCM (30 mL) was added (Boc)2O (654.0 mg, 3.0 mmol), Et3N (606.0 mg, 6.0 mmol) dropwise and DMAP (123.0 mg, 1.0 mmol). The reaction mixture was stirred for 12 h at 30° C., quenched with saturated aqueous NH4Cl (50 mL), extracted with EA (50 mL), dried over Na2SO4, filtered and concentrated. Silica gel chromatography (PE:EA=2:1) gave the impure title compound (400.0 mg) as a green solid, which was carried on to the next step. LCMS (M−55)+247.

reactant | 3-amino-5-bromo-1-methylpyridin-2-one | 2.0 mmol, 404.0 mg | NC=1C(N(C=C(C1)Br)C)=O | C6H7BrN2O
reactant | (Boc)2O | 3.0 mmol, 654.0 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 6.0 mmol, 606.0 mg | CCN(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.0 mmol, 123.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl N-(5-bromo-1-methyl-2-oxopyridin-3-yl)carbamate | 400.0 mg | BrC=1C=C(C(N(C1)C)=O)NC(OC(C)(C)C)=O | C11H15BrN2O3
